US06756359B2
To a solution of sodium hydride (1.2 eq) in THF was added slowly methyl diethylphosphonoacetate (1.2 eq) at 0° C. under dry conditions and the mixture was stirred at room temperature for 30 minutes. A solution of 2-Methyl-2-(4-pyridin-3-yl-imidazol-1-yl)-propionaldehyde (1 eq), in THF was added dropwise at room temperature and the mixture was stirred for 1 hour at the same temperature. The mixture was poured into H2O and the whole was extracted with ethyl acetate. The organic layer was washed with NaCl(sat), dried over sodium sulfate, filtered and concentrated. To a solution of the residue in ethyl acetate, was added Palladium, 10 wt. % on activated carbon and left stirring under 1 atm hydrogen overnight. After the catalyst was filtered off, the filtrate was purified by flash chromatography using a solvent gradient 97% DCM, 3% MeOH and 0.1% TEA to yield 4-Methyl-4-(4-pyridin-3-yl-imidazol-1-yl)pentanoic acid methyl ester (75%). MH+(274).

reactant | sodium hydride | 1.2 eq | [H-].[Na+]
reactant | methyl diethylphosphonoacetate | 1.2 eq | C(C)OP(=O)(OCC)CC(=O)OC | C7H15O5P
reactant | 2-Methyl-2-(4-pyridin-3-yl-imidazol-1-yl)-propionaldehyde | 1 eq | CC(C=O)(C)N1C=NC(=C1)C=1C=NC=CC1 | C12H13N3O
reactant | H2O | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 4-Methyl-4-(4-pyridin-3-yl-imidazol-1-yl)pentanoic acid methyl ester | 75% | COC(CCC(C)(N1C=NC(=C1)C=1C=NC=CC1)C)=O | C15H19N3O2
